US08614215B2
Intermediate 138: N-(3-{[5-methoxy-2-(piperidin-4-ylmethyl)phenyl]amino}quinoxalin-2-yl)-1-methyl-1H-imidazole-4-sulfonamide
N-(3-chloroquinoxalin-2-yl)-1-methyl-1H-imidazole-4-sulfonamide (1 g; 3.1 mmol; 1 eq) and 4-(2-amino-4-methoxy-benzyl)-piperidine-1-carboxylic acid tert-butyl ester (1.1 g; 3.4 mmol; 1.1 eq) are suspended in water (12.5 mL) and EtOH (12.5 mL) then AcOH (2.5 mL) is added. The resulting suspension is heated up to 90° C. for 3 days. Boc deprotection occurs during the reaction. The solvents are evaporated under reduced pressure and the resulting oily brown residue is taken up in water. An excess triethylamine is added until pH=8 to trap the HCl formed during the reaction. The precipitate is filtered off then washed thoroughly with water until neutral. It is dried under vacuum at 40° C. for 2 days, affording 544 mg (35%) of the title compound as a grey solid. 1H NMR (DMSO-d6) δ 9.35 (s, 1H), 8.70 (d, J=2.4 Hz, 1H), 7.69 (s, 1H), 7.50-7.30 (m, 3H), 7.35-6.97 (m, 3H), 6.48 (dd, J=8.3, 2.7 Hz, 1H), 3.89 (s, 2H), 3.78 (s, 3H), 3.63 (s, 3H), 3.45-3.15 (m, 2H), 2.97-2.78 (m, 2H), 2.65-2.53 (m, 2H), 2.05-1.80 (m, 2H), 1.56-1.32 (m, 2H). HPLC (max plot) 89%; Rt 3.08 min. LC/MS: (ES+) 508.1, (ES−) 506.1.

reactant | N-(3-chloroquinoxalin-2-yl)-1-methyl-1H-imidazole-4-sulfonamide | 3.1 mmol, 1 g, 1 eq | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1N=CN(C1)C | C12H10ClN5O2S
reactant | 4-(2-amino-4-methoxy-benzyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.4 mmol, 1.1 g, 1.1 eq | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=C(C=C(C=C1)OC)N | C18H28N2O3
reactant | EtOH | 12.5 mL | CCO | C2H6O
reactant | AcOH | 2.5 mL | CC(=O)O | C2H4O2
solvent | water | 12.5 mL | O | H2O
product | N-(3-{[5-methoxy-2-(piperidin-4-ylmethyl)phenyl]amino}quinoxalin-2-yl)-1-methyl-1H-imidazole-4-sulfonamide | 544 mg, 35% | COC=1C=CC(=C(C1)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1N=CN(C1)C)CC1CCNCC1 | C25H29N7O3S
